US04271152
In the way described in B(1), 0.33 mol Z-Thr-OH and 0.35 mol H-Pro-OtBu are coupled with the aid of HOBt and DCCI in DMF. Yield 64%; melting point 65°-67° C. The Z-Thr-Pro-OtBu obtained in this way is hydrogenated in the way described above (see B.3.b.).

reactant | Z-Thr-OH | 0.33 mol | N([C@@H]([C@H](O)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H15NO5
reactant | H-Pro-OtBu | 0.35 mol | N1[C@H](C(=O)OC(C)(C)C)CCC1 | C9H17NO2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | CN(C)C=O | C3H7NO
product | Z-Thr-Pro-OtBu | Yield 64% | N([C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C21H30N2O6
